US04792565
Ethyl 3-methylpyrazole-4-carboxylate (5.0 g) was added to sodium alcoholate prepared from 0.75 g of metallic sodium and 30 ml of ethanol. To the homogeneous mixture was added 3.6 g of 1,3-dichloropropene, and the mixture was refluxed for 2 hours. After the reaction, the reaction mixture was discharged into water and extracted with ethyl acetate. The extract was chromatographed on a silica gel column, and the column was eluted with hexane/ethyl acetate to give 2.5 g (34%) of a Z isomer of ethyl 1-(gamma-chloroallyl)-3-methylpyrazole-4-carboxylate and 1.5 g (20 %) of its E isomer. The Z isomer (2.5 g) was stirred under heat for 4 hours together with a mixture of 25 ml of ethanol, 2.5 g of sodium hydroxide and 25 ml of water. After the reaction, the reaction mixture was cooled to room temperature, and with cooling, concentrated hydrochloric acid was added to adjust its pH to 4 to 5. The precipitated crystals were collected by filtration and dried. Recrystallization from water gave 0.3 g (yield 14%) of the Z isomer of 1-(gamma-chloroallyl)-3-methylpyrazole-4-carboxylic acid. m.p. 96°-100° C.

reactant | Ethyl 3-methylpyrazole-4-carboxylate | 5.0 g | CC1=NNC=C1C(=O)OCC | C7H10N2O2
reactant | sodium | 0.75 g | [Na] | Na
reactant | ethanol | 30 ml | C(C)O | C2H6O
reactant | 1,3-dichloropropene | 3.6 g | ClC=CCCl | C3H4Cl2
solvent | water | O | H2O
product | ethyl 1-(gamma-chloroallyl)-3-methylpyrazole-4-carboxylate | ClC=CCN1N=C(C(=C1)C(=O)OCC)C | C10H13ClN2O2
